US07718652B2
In an analogous manner to Example 1, step 8, 3-(3-chloropropyl)-1-(3,4-difluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (71 mg) was reacted with methylamine and then treated with HCl to provide 3-[1-(3,4-difluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]-N-methyl propan-1-amine hydrochloride (53 mg):

reactant | 3-(3-chloropropyl)-1-(3,4-difluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 71 mg | ClCCCN1S(N(C2=C(C1)C=CC=C2)C2=CC(=C(C=C2)F)F)(=O)=O | C16H15ClF2N2O2S
reactant | methylamine | CN | CH5N
reactant | HCl | Cl | ClH
product | 3-[1-(3,4-difluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]-N-methyl propan-1-amine hydrochloride | 53 mg | Cl.FC=1C=C(C=CC1F)N1S(N(CC2=C1C=CC=C2)CCCNC)(=O)=O | InChI=1S/C17H19F2N3O2S.ClH/c1-20-9-4-10-21-12-13-5-2-3-6-17(13)22(25(21,23)24)14-7-8-15(18)16(19)11-14;/h2-3,5-8,11,20H,4,9-10,12H2,1H3;1H
